US04207343
Using a similar procedure to that above, a reaction mixture was prepared containing 48 g. of N-bromosuccinimide, 65 g. of 1-phenyl-3-(o-anisyloxy)propane and 300 ml. of carbon tetrachloride. 500 mg. of benzoyl peroxide were added and the resulting mixture heated at reflux for about 2 hours at which point thin-layer chromatography indicated that no starting material remained in the reaction mixture. The reaction mixture was cooled, the succinimide separated by filtration and the solvent removed from the filtrate by evaporation in vacuo. A residual oil weighing about 88 g. comprising 1-phenyl-3-(o-anisyloxy)propylbromide formed in the above reaction was obtained.

reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 1-phenyl-3-(o-anisyloxy)propane | C1(=CC=CC=C1)CCCOCC=1C(=CC=CC1)OC | C17H20O2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-phenyl-3-(o-anisyloxy)propylbromide | C1(=CC=CC=C1)C(CCOCC=1C(=CC=CC1)OC)Br | C17H19BrO2
